US05514680
3-Chloro-2,4-difluoro-6-nitro-(trifluoroacetamido)benzene
To a solution of 15.1 g (58.1 mmol) of 3-chloro-2,4-difluoro(trifluoroacetamido)benzene in 80 mL of H2SO4 kept in an ice-bath was added dropwise 10 mL of HNO3. Solid precipitate was observed during addition of HNO3. The mixture was stirred in an ice-bath for 4 h. It was added into 600 mL of ice-water. The precipitate was filtered and washed by water, and dried to leave almost colorless solid (16.8 g, 95%), mp 124°-125° C. 1H NMR (CDCl3), 7.69 (dd, 1), 8.936 (mb, 1).

reactant | 3-chloro-2,4-difluoro(trifluoroacetamido)benzene | 58.1 mmol, 15.1 g | ClC=1C(=C(C=CC1F)NC(C(F)(F)F)=O)F | C8H3ClF5NO
reactant | HNO3 | 10 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 80 mL | OS(=O)(=O)O | H2O4S
product | 3-Chloro-2,4-difluoro-6-nitro-(trifluoroacetamido)benzene | 16.8 g, 95% | ClC=1C(=C(C(=CC1F)[N+](=O)[O-])NC(C(F)(F)F)=O)F | C8H2ClF5N2O3
